US06313344B1
50.3 g of 4-chlorophenacyl bromide in 300 ml of glacial acetic acid are stirred with 23 g of sodium acetate and 21.6 g O-methylhydroxylamine hydrochloride for 2 hours at 70° C. 150 ml of ethyl acetate are added to the mixture, which is then extracted by washing several times with water and saturated sodium chloride solution. The organic phase is dried over sodium sulfate and concentrated by evaporation in vacuo. Crystallisation from hexane yields 4-chlorophenacyl bromide O-methyloxime having a melting point of 57 to 60° C.

reactant | 4-chlorophenacyl bromide | 50.3 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | sodium acetate | 23 g | C(C)(=O)[O-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 21.6 g | Cl.CON
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 4-chlorophenacyl bromide O-methyloxime | CON=C(CBr)C1=CC=C(C=C1)Cl | C9H9BrClNO
